### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Jacobian): implement group operation polynomials for Jacobian coordinates

### PR DESCRIPTION
**Pull request by Multramate**
Define auxiliary polynomials for the secant-and-tangent negation `neg` and addition `add` on `Fin 3 -> F`. Note that the group operations are defined from scratch instead of pulling back the group operations from the affine case, as this will be more convenient for rewriting and allows them to be defined over a ring. I don't see an easy way to define an analogous `slope` function as in `Affine` when there are now `Z`-coordinates in the polynomials.

This is the second in a series of four PRs leading to #9405 and is analogous to #9417 

---

- [x] depends on: #9432 
- [x] depends on: #13060 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 1]
```diff
@@ -86,240 +90,769 @@ local macro "pderiv_simp" : tactic =>
...
+    (hQ : V.Equation Q) (hPz : P z ≠ 0) (hx : P x * Q z ^ 2 = Q x * P z ^ 2)
+    (hy : P y * Q z ^ 3 ≠ Q y * P z ^ 3) : V.dblZ P ≠ 0 :=
+  mul_ne_zero hPz <| sub_ne_zero_of_ne <| Y_ne_negY_of_Y_ne hP hQ hx hy
+
+lemma dblZ_ne_zero_of_Y_ne' [NoZeroDivisors R] {P Q : Fin 3 → R} (hP : V.Equation P)
+    (hQ : V.Equation Q) (hPz : P z ≠ 0) (hx : P x * Q z ^ 2 = Q x * P z ^ 2)
+    (hy : P y * Q z ^ 3 ≠ V.negY Q * P z ^ 3) : V.dblZ P ≠ 0 :=
+  mul_ne_zero hPz <| sub_ne_zero_of_ne <| Y_ne_negY_of_Y_ne' hP hQ hx hy
+
+private lemma toAffine_slope_of_eq {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation Q)
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:526]: Why is this private? You're guaranteeing that nobody else will ever need this?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 2]
```diff
@@ -86,240 +90,769 @@ local macro "pderiv_simp" : tactic =>
...
+    W.dblX P / W.dblZ P ^ 2 = W.toAffine.addX (P x / P z ^ 2) (Q x / Q z ^ 2)
+      (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)) := by
+  rw [dblX, toAffine_slope_of_eq hP hQ hPz hQz hx hy, dblZ,
+    ← (div_eq_div_iff (pow_ne_zero 2 hPz) (pow_ne_zero 2 hQz)).mpr hx,
+    toAffine_addX_of_eq hPz <| sub_ne_zero_of_ne <| Y_ne_negY_of_Y_ne' hP hQ hx hy]
+
+variable (V) in
+/-- The $Y$-coordinate of the doubling of a point representative, before applying the final negation
+that maps $Y$ to $-Y - a_1XZ - a_3Z^3$. -/
+def dblY' (P : Fin 3 → R) : R :=
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:577]: What about `negDblY`?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 3]
```diff
@@ -86,240 +90,769 @@ local macro "pderiv_simp" : tactic =>
...
+    (norm := (rw [dblY', dblX_of_Z_eq_zero hP hPz, negY_of_Z_eq_zero hPz, hPz]; ring1))
+    (8 * (equation_of_Z_eq_zero hPz).mp hP - 12 * P x ^ 3) * (equation_of_Z_eq_zero hPz).mp hP
+
+lemma dblY'_of_Y_eq [NoZeroDivisors R] {P Q : Fin 3 → R} (hQz : Q z ≠ 0)
+    (hx : P x * Q z ^ 2 = Q x * P z ^ 2) (hy : P y * Q z ^ 3 = Q y * P z ^ 3)
+    (hy' : P y * Q z ^ 3 = V.negY Q * P z ^ 3) : V.dblY' P = (-eval P V.polynomialX) ^ 3 := by
+  rw [dblY', dblX_of_Y_eq hQz hx hy hy', eval_polynomialX, Y_eq_negY_of_Y_eq hQz hx hy hy']
+  ring1
+
+private lemma toAffine_addY'_of_eq {P : Fin 3 → F} {n d : F} (hPz : P z ≠ 0) (hd : d ≠ 0) :
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:597]: this could have been `negAddY` . I think I far prefer my suggestions to just "add a ' to indicate a negation" -- usually adding a ' indicates a variant, not a completely different function.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 4]
```diff
@@ -86,240 +90,769 @@ local macro "pderiv_simp" : tactic =>
...
+      ((P y * Q z ^ 3 - Q y * P z ^ 3) ^ 2
+        + W.a₁ * (P y * Q z ^ 3 - Q y * P z ^ 3) * P z * Q z * addZ P Q
+        - W.a₂ * P z ^ 2 * Q z ^ 2 * addZ P Q ^ 2 - P x * Q z ^ 2 * addZ P Q ^ 2
+        - Q x * P z ^ 2 * addZ P Q ^ 2) / (P z * Q z) ^ 2 := by
+  rw [← addX_eq' hP hQ, mul_div_cancel_right₀ _ <| pow_ne_zero 2 <| mul_ne_zero hPz hQz]
+
+lemma addX_smul (P Q : Fin 3 → R) (u v : Rˣ) :
+    V.addX (u • P) (v • Q) = ((u * v) ^ 2) ^ 2 * V.addX P Q := by
+  simp only [addX, smul_fin3_ext]
+  ring1
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:708]: Is there a reason you're avoiding `ring`? Is `ring1` faster or better in some way?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 5]
```diff
@@ -86,240 +90,769 @@ local macro "pderiv_simp" : tactic =>
...
+    V.addX P Q * (P z * Q z) ^ 2 = (P y * Q z ^ 3 - Q y * P z ^ 3) ^ 2 := by
+  simp only [addX_eq' hP hQ, addZ_of_X_eq hx, add_zero, sub_zero, mul_zero, zero_pow two_ne_zero]
+
+lemma addX_of_X_eq {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation Q) (hPz : P z ≠ 0)
+    (hQz : Q z ≠ 0) (hx : P x * Q z ^ 2 = Q x * P z ^ 2) :
+    W.addX P Q = (-((P y * Q z ^ 3 - Q y * P z ^ 3) / (P z * Q z))) ^ 2 := by
+  rw [neg_sq, div_pow, ← addX_of_X_eq' hP hQ hx,
+    mul_div_cancel_right₀ _ <| pow_ne_zero 2 <| mul_ne_zero hPz hQz]
+
+private lemma toAffine_addX_of_ne {P Q : Fin 3 → F} {n d : F} (hPz : P z ≠ 0) (hQz : Q z ≠ 0)
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:731]: Again what is the logic of all these `private` lemmas?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 6]
```diff
@@ -86,240 +90,769 @@ local macro "pderiv_simp" : tactic =>
...
+    (hQz : Q z ≠ 0) (hx : P x * Q z ^ 2 ≠ Q x * P z ^ 2) :
+    W.addX P Q / addZ P Q ^ 2 = W.toAffine.addX (P x / P z ^ 2) (Q x / Q z ^ 2)
+      (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)) := by
+  rw [addX_eq hP hQ hPz hQz, div_div, ← mul_pow, toAffine_slope_of_ne hPz hQz hx,
+    toAffine_addX_of_ne hPz hQz <| addZ_ne_zero_of_X_ne hx]
+
+variable (V) in
+/-- The $Y$-coordinate of the addition of two distinct point representatives, before applying the
+final negation that maps $Y$ to $-Y - a_1XZ - a_3Z^3$. -/
+def addY' (P Q : Fin 3 → R) : R :=
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:748]: `negAddY`?

**Review by kbuzzard — APPROVED** [review]
Thanks a lot for all this hard work! Proofs are really nice and short, and it seems like this is probably the right way to approach elliptic curves as plane cubics. I've left some comments but this seems basically fine.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 7]
```diff
@@ -40,11 +44,11 @@ In cryptography, as well as in this file, this is often called the Jacobian coor
...
 notation `![x, y, z]`. However, `P` is not definitionally equivalent to the expanded vector
-`![P x, P y, P z]`, so the auxiliary lemma `fin3_def` can be used to convert between the two forms.
-The equivalence of two point representatives `P` and `Q` is implemented as an equivalence of orbits
-of the action of `Rˣ`, or equivalently that there is some unit `u` of `R` such that `P = u • Q`.
-However, `u • Q` is again not definitionally equal to `![u² * Q x, u³ * Q y, u * Q z]`, so the
-auxiliary lemmas `smul_fin3` and `smul_fin3_ext` can be used to convert between the two forms.
+`![P x, P y, P z]`, so the lemmas `fin3_def` and `fin3_def_ext` can be used to convert between the
+two forms. The equivalence of two point representatives `P` and `Q` is implemented as an equivalence
+of orbits of the action of `Rˣ`, or equivalently that there is some unit `u` of `R` such that
+`P = u • Q`. However, `u • Q` is not definitionally equal to `![u² * Q x, u³ * Q y, u * Q z]`, so
```
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:50]: Whoops, I meant syntactically equal!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:577]: This sounds like a good idea. We'd have to change the `Affine` versions too.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:597]: Ditto

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:748]: Ditto

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 5 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:731]: These are auxiliary lemmas for `toAffine_add/dblX/Y_of_eq`, which are essentially the same lemma but with an actual sane expression on the right hand side that is useful.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:526]: Ditto.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 8]
```diff
@@ -285,39 +289,39 @@ lemma eval_polynomialY_of_Z_ne_zero {P : Fin 3 → F} (hPz : P z ≠ 0) :
...
+lemma eval_polynomialZ (P : Fin 3 → R) : eval P W'.polynomialZ =
+    W'.a₁ * P x * P y + 3 * W'.a₃ * P y * P z ^ 2 -
+      (2 * W'.a₂ * P x ^ 2 * P z + 4 * W'.a₄ * P x * P z ^ 3 + 6 * W'.a₆ * P z ^ 5) := by
   rw [polynomialZ_eq]
   eval_simp
 
-variable (V) in
-/-- The proposition that a point representative $(x, y, z)$ in `W` is nonsingular.
+variable (W') in
+/-- The proposition that a point representative $(x, y, z)$ in `W'` is nonsingular.
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:310]: You might want to make the remark that this definition is not mathematically sensible if R isn't a field (even though it compiles). I think that in the non-field case the correct definition is probably that the ideal generated by the three evals is all of R. Otherwise you can specialise at a maximal ideal containing the ideal generated by the evals and get a singular specialization.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 1 above)
Comment (kbuzzard) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:526]: (for anyone else reading this: the answer is "there's a better lemma later")

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 9]
```diff
@@ -392,22 +396,464 @@ lemma equiv_zero_of_Z_eq_zero {P : Fin 3 → F} (hP : W.Nonsingular P) (hPz : P
...
+    (hQz : Q z ≠ 0) (hx : P x * Q z ^ 2 = Q x * P z ^ 2) (hy : P y * Q z ^ 3 ≠ W.negY Q * P z ^ 3) :
+    W.dblX P / W.dblZ P ^ 2 = W.toAffine.addX (P x / P z ^ 2) (Q x / Q z ^ 2)
+      (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)) := by
+  rw [dblX, toAffine_slope_of_eq hP hQ hPz hQz hx hy, dblZ,
+    ← (div_eq_div_iff (pow_ne_zero 2 hPz) (pow_ne_zero 2 hQz)).mpr hx,
+    toAffine_addX_of_eq hPz <| sub_ne_zero_of_ne <| Y_ne_negY_of_Y_ne' hP hQ hx hy]
+
+variable (W') in
+/-- The $Y$-coordinate of the doubling of a point representative, before applying the final negation
+that maps $Y$ to $-Y - a_1XZ - a_3Z^3$. -/
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:577]: So it's *not* the Y-coordinate! Would it be better to say something like "the Y coordinate of the 3rd point of intersection of the tangent line at P with the curve. In other words, the Y coordinate of -2P."?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 10]
```diff
@@ -392,22 +396,464 @@ lemma equiv_zero_of_Z_eq_zero {P : Fin 3 → F} (hP : W.Nonsingular P) (hPz : P
...
+lemma addX_of_Z_ne_zero {P Q : Fin 3 → F} (hP : W.Equation P) (hQ : W.Equation Q) (hPz : P z ≠ 0)
+    (hQz : Q z ≠ 0) (hx : P x * Q z ^ 2 ≠ Q x * P z ^ 2) :
+    W.addX P Q / addZ P Q ^ 2 = W.toAffine.addX (P x / P z ^ 2) (Q x / Q z ^ 2)
+      (W.toAffine.slope (P x / P z ^ 2) (Q x / Q z ^ 2) (P y / P z ^ 3) (Q y / Q z ^ 3)) := by
+  rw [addX_eq hP hQ hPz hQz, div_div, ← mul_pow, toAffine_slope_of_ne hPz hQz hx,
+    toAffine_addX_of_ne hPz hQz <| addZ_ne_zero_of_X_ne hx]
+
+variable (W') in
+/-- The $Y$-coordinate of the addition of two distinct point representatives, before applying the
+final negation that maps $Y$ to $-Y - a_1XZ - a_3Z^3$. -/
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:748]: Same comment as above. It's the Y coordinate of the third point of intersection, i.e. of -(P+Q).

**Review by kbuzzard — APPROVED** [review]
I've left some pernickety comments, mostly on docstrings rather than anything code-related.

**Comment by kbuzzard** [comment]
Thanks! 

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
